US09169261B2
To a solution of (S)-tert-butyl pyrrolidin-3-ylcarbamate (0.91 g, 4.9 mmol, 1 eq) in 2.6 mL of DIPEA was added 1-chloropyrrolo[1,2-a]pyrazine (0.75 g, 4.9 mmol, 1 eq) and 1 drop of 1-butyl-3-methylimidazolium tetrafluorborate. After heating for 3 h at 110° C., the mixture was concentrated and purified by silica gel flash chromatography (100% EtOAc) to afford (S)-tert-butyl N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)carbamate (0.88 g, 2.9 mmol, 59%).

reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 4.9 mmol, 0.91 g, 1 eq | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 1-chloropyrrolo[1,2-a]pyrazine | 4.9 mmol, 0.75 g, 1 eq | ClC=1C=2N(C=CN1)C=CC2 | C7H5ClN2
solvent | DIPEA | 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | 1-butyl-3-methylimidazolium tetrafluorborate | 1 drop | F[B-](F)(F)F.C(CCC)[N+]1=CN(C=C1)C
product | (S)-tert-butyl N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)carbamate | 2.9 mmol, 0.88 g, 59% | C=1(C=2N(C=CN1)C=CC2)N2C[C@H](CC2)NC(OC(C)(C)C)=O | C16H22N4O2
